US07223788B2
5-Chloro-3′,6′-dihydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid [4-(3-dimethylamino-pyrrolidin-1-yl)phenyl]amide
[1-(4-Aminophenyl)pyrrolidin-3-yl]dimethylamine (32 mg) and carbonyldiimidazole (27.1 mg) were dissolved in acetonitrile (1.5 ml), and the mixture was stirred for 3 hours. Triethylamine (63.4 μl) was added to a solution of 5-chloro-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridine (40.7 mg) in THF (1 ml) and chloroform (0.5 ml). After 15 minutes, the mixture was added dropwise to the first solution and stirred overnight. The mixture was concentrated and the residue was partitioned between dichloromethane and water. The organic phase was dried over sodium sulfate, filtered and concentrated. Contamination by the primary and/or secondary amine was removed by dissolving the residue in dichloromethane (1.5 ml) and adding the solution to a stirred suspension of polymer-bound p-toluenesulfonyl chloride (0.5 g) in dichloromethane (6 ml) and triethylamine (128 μl). After 3 hours, the resin was filtered off and washed several times with dichloromethane. The combined organic phases were concentrated. The residue was purified by chromatography (silica gel, mobile phase: ethyl acetate/dichloromethane (5%), ammonia (7N in methanol, 2%), later ethyl acetate/dichloromethane (5%), ammonia (7N in methanol, 3%). This resulted in the product with the molecular weight of 425.97 (C23H28ClN5O); MS (ESI): 426 (M+H+).

reactant | [1-(4-Aminophenyl)pyrrolidin-3-yl]dimethylamine | 32 mg | NC1=CC=C(C=C1)N1CC(CC1)N(C)C | C12H19N3
reactant | carbonyldiimidazole | 27.1 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Triethylamine | 63.4 μl | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridine | 40.7 mg | ClC=1C=CC(=NC1)C=1CCNCC1 | C10H11ClN2
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Chloro-3′,6′-dihydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid [4-(3-dimethylamino-pyrrolidin-1-yl)phenyl]amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)N1CCC(=CC1)C1=NC=C(C=C1)Cl)C | C23H28ClN5O
